Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with PMH of transitional cell carcinoma s/p bladder 
resection, HTN, HL presenting with 3 days of abdominal pain and 
nausea and one day of vomiting. Patient was initially seen at 
clinic, where she was prescribed Levofloxacin for a possible 
UTI. Her symptoms persisted, and she was evaluated at ___ 
___ one day prior to admission where an abdominal CT showed a 
small bowel obstruction. She had a loose bowel movement after 
the CT with improvement in her symptoms, and elected to leave 
the ER as she preferred to be admitted to the ___. Her nausea 
and abdominal pain returned on the day of admission, prompting 
her to present to the ___ ER. She denies fevers, chills, chest 
pain, shortness of breath, or lower extremity edema. 

While in the emergency room patient underwent a KUB which 
preliminarily showed resolution of her SBO. She was afebrile and 
hemodynamically stable and was admitted to the medical service.

ROS: Ten point review of systems performed and negative except 
as noted above.
 
Past Medical History:
HTN
TB exposure
Hypercholesterolemia
Low back pain  
TURBT  

 
Social History:
___
Family History:
No family history of bladder cancer
 
Physical Exam:
VS: T=97.5  BP=125/72  HR=75  RR=18  O2 sat=98% on RA
Gen: Awake, alert, NAD
HEENT: NCAT, EOMI, anicteric
CV: RR, no m/r/g
Pulm: CTA B
Abd: Soft, non-distended, mild R CVA tenderness
Ext: No edema, no calf tenderness

 
Pertinent Results:
___ 06:00PM 
WBC-9.9 RBC-4.31 Hgb-12.1 Hct-36.1 MCV-84 Plt ___
Glucose-111* UreaN-37* Creat-1.1 Na-139 K-3.7 Cl-103 HCO3-24 
AnGap-16
URINE ___ WBC->50 Bacteri-MOD Yeast-NONE Epi-0
URINE Blood-SM Nitrite-NEG Protein-TR Glucose-NEG Ketone-15 
Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

URINE CULTURE (Final ___:    <10,000 organisms/ml. 

Abd XRay: ___
IMPRESSION: Finding suggestive of early to partial small bowel 
obstruction, or focal ileus. No recent comparisons are available 
to evaluate for interval change. 
  
The study and the report were reviewed by the staff radiologist. 


 
Brief Hospital Course:
1. Partial SBO: Abdominal Xray consistent with early or partial 
SBO, which was consistent with her symptoms.  She was placed on 
IVF and initially placed NPO and advance slowly to a clear 
liquid diet, then full liquid diet on day of discharge.  On day 
2 of her hospitalization, she had a BM, able to pass gas and had 
improvement in her abdominal pain.  She had resolution of her 
abdominal pain on discharge.  Her risk factors for SBO are her 
adhesions from prior surgery. 

2. Bacteriuria: >50 WBC's in urine with moderate bacteria, but 
negative leukocyte esterase and nitrite from her ileal loop.  
She was started on ceftriaxone and received 3 days of treatment. 
 Her urine culture finally grew <10,000 colonies and ceftriaxone 
was discontinued.  Briefly spoke with inpatient urology team and 
agreed it was reasonable to discontinue antibiotics in light of 
getting the specimen from the ileal loop and the setting of her 
urine culture.  Pt was instructed to follow up in Urology within 
the month.  

3. Hypertension: She was restarted on a lower dose of 
hydrochlorothiazide at 12.5mg daily.  She was instructed to 
follow up her blood pressure with her primary care doctor in the 
next ___ weeks.  

4. Osteopenia/Osteoporosis: Continue Ca/Vit D and Fosamax as an 
outpatient

All other medical issues were stable and no medication changes 
were made.
 
Medications on Admission:
Aspirin 81 mg PO DAILY   
Hydrochlorothiazide 25 mg PO Daily
Pantoprazole 20 mg PO Q24H Start: In am  
Ca/Vit D
Fosamax ___
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily). Tablet, Chewable(s) 
2. Hydrochlorothiazide 12.5 mg Capsule Sig: One (1) Capsule PO 
DAILY (Daily).  
3. Pantoprazole 20 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO once a day.  
4. Fosamax 70 mg Tablet Sig: One (1) Tablet PO once a week.  
5. Calcium 500 + D 500 mg(1,250mg) -200 unit Tablet Sig: One (1) 
Tablet PO twice a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Partial small bowel obstruction
Bacteriuria

Hypertension
Osteoporosis

 
Discharge Condition:
Mental Status:Clear and coherent
Level of Consciousness:Alert and interactive
Activity Status:Ambulatory - Independent
 
Discharge Instructions:
You were admitted with a partial small bowel obstruction.  You 
were given fluids and bowel rest.  Your abdominal pain resolved 
and you were able to pass bowel movements and flatus prior to 
discharge. 

Of note, you were diagnosed with a urinary tract infection and 
were started on antibiotics here.  The urine culture was 
negative and antibiotics were discontinued.  Please return to 
the hospital if you develop fevers, chills or night sweats or 
recurrent abdominal pain.

Medication changes:
1. Note that your Hydrochlorothiazide dose was decreased to 
12.5mg daily.  Please have your blood pressure followed up by 
your primary care doctor within ___ weeks.
 
Followup Instructions:
___